US04514211
To a solution of 1.2 g of 2-amino-4,6-dimethylpyrimidine in 25 ml of tetrahydrofuran was added 2.5 g of 2,3-dihydro-2,2-dimethyl-7-benzofuransulfonyl isocyanate prepared above. After a slight exotherm the solution was stirred at room temperature for 4 hours. The solution was concentrated in vacuo to give a viscous oil that precipitated a solid from 10 ml of acetonitrile. The solid was recrystallized from acetonitrile to give 2 g of N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2,3-dihydro-2,2-dimethyl-7-benzofuransulfonamide, m.p. 203°-206° C. The IR spectrum showed a carbonyl absorption at 1680 cm-1 indicative of a sulfonylurea.

reactant | 2-amino-4,6-dimethylpyrimidine | 1.2 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | 2,3-dihydro-2,2-dimethyl-7-benzofuransulfonyl isocyanate | 2.5 g | CC1(OC2=C(C1)C=CC=C2S(=O)(=O)N=C=O)C | C11H11NO4S
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2,3-dihydro-2,2-dimethyl-7-benzofuransulfonamide | 2 g | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=CC=CC=2CC(OC21)(C)C | C17H20N4O4S
